US06384065B1
In 5 ml of anhydrous tetrahydrofuran was dissolved 0.50 g of 3-[8-(3-methylbutylidene)-3-oxo-1-thia-4-azaspiro[4.5]decan-4-yl]-propionic acid. After adding 0.25 ml of benzaldehyde and 0.45 g of potassium tert-butoxide at ambient temperature, the resulting mixture was heated under reflux for 6 hours. The reaction mixture was poured into a mixture of water and ethyl acetate, pH was adjusted to 2.0 with 2 mol/L hydrochloric acid, and the organic layer was separated. The organic layer was washed successively with water and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Isopropyl ether was added to the residue and the deposited crystal was collected by filtration. Thus, 0.32 g of 3-[8-(3-methylbutylidene)-3-oxo-2-(1-phenylmethylidene)-1-thia-4-azaspiro[4.5]decan-4-yl]-propionic acid was obtained as a colorless crystalline product.

reactant | 3-[8-(3-methylbutylidene)-3-oxo-1-thia-4-azaspiro[4.5]decan-4-yl]-propionic acid | 0.50 g | CC(CC=C1CCC2(N(C(CS2)=O)CCC(=O)O)CC1)C | C16H25NO3S
reactant | benzaldehyde | 0.25 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | potassium tert-butoxide | 0.45 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-[8-(3-methylbutylidene)-3-oxo-2-(1-phenylmethylidene)-1-thia-4-azaspiro[4.5]decan-4-yl]-propionic acid | 0.32 g | CC(CC=C1CCC2(N(C(C(S2)=CC2=CC=CC=C2)=O)CCC(=O)O)CC1)C | C23H29NO3S
